US07420001B2
To 4-methyl-benzooxazole-2-carboxylic acid ethyl ester (140 mg) was added 2 mL of THF, and 0.93 mL (2 eq) of NaOH solution (2N in MeOH). The reaction mixture was stirred at room temperature overnight. The suspension was filtered and the solid was dried under vacuum to give 200 mg (100%) of 4-methyl-benzooxazole-2-carboxylic acid sodium salt as an off-white solid.

reactant | 4-methyl-benzooxazole-2-carboxylic acid ethyl ester | 140 mg | C(C)OC(=O)C=1OC2=C(N1)C(=CC=C2)C | C11H11NO3
reactant | NaOH | 2N, 0.93 mL, 2 eq | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-methyl-benzooxazole-2-carboxylic acid sodium salt | 200 mg, 100% | [Na+].CC1=CC=CC2=C1N=C(O2)C(=O)[O-] | InChI=1S/C9H7NO3.Na/c1-5-3-2-4-6-7(5)10-8(13-6)9(11)12;/h2-4H,1H3,(H,11,12);/q;+1/p-1
